US07741321B2
A suspension of [6-(4-cyano-phenyl)-pyridin-2-yl]carbamic acid tert-butyl ester (7.0 g, 24 mmol), Raney Ni (1.0 g) in EtOH (500 mL) and NH3.H2O (10 mL) was hydrogenated under H2 (50 psi.) at 50° C. for 6 h. The catalyst was filtered off and the filtrate was concentrated to dryness to give [6-(4-aminomethyl-phenyl)-pyridin-2-yl]-carbamic acid tert-butyl ester, which was used directly in next step. 1H NMR (300 MHz, CDCl3) δ 7.83-7.92 (m, 3H), 7.70 (t, J=7.8 Hz, 1H), 7.33-7.40 (m, 4H), 3.92 (brs, 2H), 1.53 (s, 9H).

reactant | [6-(4-cyano-phenyl)-pyridin-2-yl]carbamic acid tert-butyl ester | 24 mmol, 7.0 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)C#N)=O | C17H17N3O2
solvent | EtOH | 500 mL | CCO | C2H6O
solvent | NH3.H2O | 10 mL | N.O
catalyst | Ni | 1.0 g | [Ni] | Ni
product | [6-(4-aminomethyl-phenyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)CN)=O | C17H21N3O2
